US04064135
This example illustrates methods of preparing hydrochloride addition salts of the compound of formula C. In this example 1 g. of 1-t-butylamino-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)propan-2-ol is dissolved in 10 ml. of ethyl ether at 20° C. A stream of gaseous anhydrous hydrogen chloride is passed over the surface of the solution until the supernatent liquid becomes colorless. The resulting precipitate is collected by filtration, washed with ethyl ether and then crystallized from methanol/diethyl ether, affording crystalline 1-t-butylamino-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)-propan-2-ol hydrochloride, m.p. 161°-166° C.

reactant | hydrochloride | Cl | ClH
reactant | 1-t-butylamino-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)propan-2-ol | C(C)(C)(C)NCC(COC=1SC(=CN1)C(=O)NCCC1C2CCC1CC2)O | C20H33N3O3S
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-t-butylamino-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)-propan-2-ol hydrochloride | Cl.C(C)(C)(C)NCC(COC=1SC(=CN1)C(=O)NCCC1C2CCC1CC2)O | InChI=1S/C20H33N3O3S.ClH/c1-20(2,3)23-10-15(24)12-26-19-22-11-17(27-19)18(25)21-9-8-16-13-4-5-14(16)7-6-13;/h11,13-16,23-24H,4-10,12H2,1-3H3,(H,21,25);1H
